US07585886B2
A 76 mg portion of potassium carbonate was added to a 20 ml DMF solution of 214 mg 2,5-dimethylterephthalate and stirred at room temperature for 30 minutes. 0.068 ml of methyl iodide was added to the reaction solution successively and stirred overnight at room temperature. Successively, work-up and purification were carried out in the standard method to obtain 90 mg of 4-methoxycarbonyl-2,5-dimethylbenzoic acid as colorless solid. EN: 207.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dimethylterephthalate | 214 mg | CC1=C(C(=O)[O-])C=C(C(=C1)C(=O)[O-])C
reactant | methyl iodide | 0.068 ml | CI | CH3I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-methoxycarbonyl-2,5-dimethylbenzoic acid | 90 mg | COC(=O)C1=CC(=C(C(=O)O)C=C1C)C | C11H12O4
